US07618964B2
a) 6-Nitro-2-phenyl-3H-imidazo[4,5-b]pyridine
14.05 g 2,3-diamino-5-nitropyridine and 9.68 g benzaldehyde in 250 ml nitrobenzene were heated to 140-150° C. for 15 hrs. The solvent is removed by vacuum distillation and the residue is dispersed in ethyl acetate, filtered, and the filter residue washed thoroughly with ethyl acetate.

reactant | 2,3-diamino-5-nitropyridine | 14.05 g | NC1=NC=C(C=C1N)[N+](=O)[O-] | C5H6N4O2
reactant | benzaldehyde | 9.68 g | C(C1=CC=CC=C1)=O | C7H6O
solvent | nitrobenzene | 250 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | 6-Nitro-2-phenyl-3H-imidazo[4,5-b]pyridine | [N+](=O)([O-])C=1C=C2C(=NC1)NC(=N2)C2=CC=CC=C2 | C12H8N4O2
